Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ man with a history of BPH, antithrombin
deficiency who presented with acute onset of chest pain and
subsequently found to have acute PE. 

This morning he was eating breakfast when he developed left 
sided
dull chest pain and some brief lightheadedness, up to ___. He
denied palpitations, N/V, fever, shortness of breath, or cough.
He denied ___ pain, swelling, erythema. He travelled on a nonstop
flight back from a 6 day trip to ___ 1 week prior to
presentation. He smokes ___ cigarettes per day with a ___ pack
year history. His mother and daughter both have a history of
blood clots. He and his daughter both have antithrombin
deficiency. He recently had a prostate biopsy through Urology
Associates in ___ which per the patient showed BPH and no
malignancy. He had a colonoscopy at age ___ years ago) which
did not show any malignancy. He has no personal  history of
malignancy.

- In the ED, initial vitals were: 
T 98.6F HR 67 BP 142/76 RR 16 O2 99% RA 

- Labs were notable for:
Normal CBC, BMP, coags, BNP. 
Negative troponin x2. 
D-dimer elevated at 4861, 4702

- Studies were notable for: 
CTA
Multiple bilateral segmental pulmonary emboli. Peripheral 
opacity
in the lingula suspicious for an infarct. No evidence of right
heart strain.

- The patient was given:
PO Aspirin 324 mg 
SC Enoxaparin Sodium 70 mg 

On arrival to the floor, the patient confirms the above history.
He endorses ___ chest pain which is significantly improved from
prior. He denies any other symptoms at this time.
 
Past Medical History:
BPH 
Restless leg syndrome 
 
Social History:
___
Family History:
Mother with h/o VTE. Daughter w h/o VTE and antithrombin
deficiency.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
___ 2223 Temp: 98.0 PO BP: 134/78 HR: 68 RR: 18 O2
sat: 99% O2 delivery: ra Dyspnea: 0 RASS: 0 Pain Score: ___ 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

Discharge Exam
VITALS:24 HR Data (last updated ___ @ 1154)
    Temp: 98.3 (Tm 98.3), BP: 127/75 (111-138/64-78), HR: 59
(59-69), RR: 18 (___), O2 sat: 97% (97-99), O2 delivery: Ra  
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

 
Pertinent Results:
Admission Labs
--------------

___ 11:38AM BLOOD WBC-6.1 RBC-4.54* Hgb-13.7 Hct-43.1 
MCV-95 MCH-30.2 MCHC-31.8* RDW-13.4 RDWSD-46.7* Plt ___
___ 11:38AM BLOOD Neuts-68.6 ___ Monos-7.9 Eos-2.1 
Baso-0.8 Im ___ AbsNeut-4.14 AbsLymp-1.23 AbsMono-0.48 
AbsEos-0.13 AbsBaso-0.05
___ 11:38AM BLOOD Glucose-99 UreaN-17 Creat-1.0 Na-143 
K-5.2 Cl-105 HCO3-27 AnGap-11
___ 11:38AM BLOOD proBNP-50
___ 11:38AM BLOOD cTropnT-<0.01
___ 03:32PM BLOOD cTropnT-<0.01

Imaging
==========

#Admission CXR ___
FINDINGS: 
 
The lungs are clear.  There is no consolidation, effusion, or 
pneumothorax. 
The cardiomediastinal silhouette is within normal limits.  Mild 
midthoracic
dextroscoliosis is noted.
 
IMPRESSION: 
 
No acute cardiopulmonary process.

#CTA CHESTStudy Date of ___ 4:05 ___

FINDINGS: 
 
HEART AND VASCULATURE: There are multiple filling defects in the 
right lower
lobe segmental arteries, lingular segmental artery (3:108), and 
left lower
lobe segmental arteries (3:155), consistent with pulmonary 
emboli.  The
thoracic aorta is normal in caliber without evidence of 
dissection or
intramural hematoma.  The heart, pericardium, and great vessels 
are within
normal limits. No pericardial effusion is seen.
 
AXILLA, HILA, AND MEDIASTINUM: No axillary, mediastinal, or 
hilar
lymphadenopathy is present.  No mediastinal mass.
 
PLEURAL SPACES: No pleural effusion or pneumothorax.
 
LUNGS/AIRWAYS: Small ground-glass opacity identified the 
periphery of the
lingula, in the distribution of a abrupt described pulmonary 
embolism.  Lungs
are otherwise clear without masses or areas of parenchymal 
opacification.
 
BASE OF NECK: There is a 0.6 cm hypodense nodule in the left 
lobe of the
thyroid.
 
ABDOMEN:  Included portion of the upper abdomen is unremarkable.
 
BONES: No suspicious osseous abnormality is seen.? There is no 
acute fracture.
 
 
IMPRESSION: 
 
Multiple bilateral segmental pulmonary emboli.  Peripheral 
opacity in the
lingula suspicious for an infarct.  No evidence of right heart 
strain.

#BILAT LOWER EXT VEINSStudy Date of ___ 8:01 AM

IMPRESSION: 
 
1.  Nonocclusive thrombus in the right popliteal vein and right 
posterior
tibial veins.
2.  No evidence of deep venous thrombosis in the left lower 
extremity.

Discharge Labs
---------------

___ 06:00AM BLOOD WBC-5.3 RBC-3.97* Hgb-12.2* Hct-37.1* 
MCV-94 MCH-30.7 MCHC-32.9 RDW-13.6 RDWSD-46.5* Plt ___
___ 06:00AM BLOOD WBC-5.3 RBC-3.97* Hgb-12.2* Hct-37.1* 
MCV-94 MCH-30.7 MCHC-32.9 RDW-13.6 RDWSD-46.5* Plt ___
___ 06:00AM BLOOD Plt ___
___ 06:00AM BLOOD Glucose-92 UreaN-19 Creat-1.1 Na-143 
K-4.2 Cl-105 HCO3-25 AnGap-13
 
Brief Hospital Course:
This is a ___ year old male with past medical history of 
antithrombin III deficiency, recent airline travel, admitted 
___ with chest pain found to have acute pulmonary 
embolism without signs of complication or to suggest high risk, 
initiated on anticoagulation with apixaban, able to be 
discharged home.  

# Acute pulmonary embolism 
# Acute R popliteal vein thrombosis 
# Acute R posterior tibial vein thrombosis
# Pleuritic chest pain 
Patient with known anti-thrombin III deficiency and recent 
airplane flight who presented with chest pain.  Given elevated 
ddimer, he underwent CTA in ED that showed bilateral segmental 
pulmonary embolism. Lower extremity ultrasound showed DVT in R 
popliteal vein and R posterior tibial vein.  PESI scoring 
placed him in class II low risk category; additionally, he was 
found to have negative cardiac biomarkers, CT without signs of 
R heart strain, and he was ambulating comfortably around 
medical unit following his admission.  Telemetry was 
unremarkable.  Given these findings, no additional workup or 
intervention was indicated.  Patient initiated on apixaban 
without issue.  Contributing factors to his pulmonary embolism 
were felt to be ATIII deficiency, prolonged airplane flight and 
tobacco use.  Counseled patient on tobacco cessation and age 
appropriate cancer screening.  Confirmed copay and that patient 
could afford apixaban.  Team counseled patient on lifestyle 
modifications while on anticoagulation.  Team arranged for 
outpatient hematology ___ given his ATIII deficiency.  Of 
note patient had questions regarding getting a tattoo while on 
anticoagulation (he has an appointment scheduled later this 
week), and about airline travel. Advised patient re: lack of 
data about approach to tattoos while anticoagulated, and 
recommended that he not obtain a tattoo pending discussions 
with his PCP and hematology ___.  Regarding his travel 
plans, we reviewed the ___ guidelines regarding this--given his 
O2 sat > 95% and lack of pulmonary comorbidities, guidelines do 
not recommend supplemental oxygen for flight; however, 
recommended that he discuss this at his primary care doctor 
___ appointment to ensure his clinical status remains 
unchanged.  Discharged on apixaban 10mg bid for 7 days followed 
by 5mg BID--recommended he discuss duration of treatment with 
PCP and hematology.  Details of admission including initiation 
of antiocoagulation were communicated to ___ office.

# Tobacco Abuse
Counseled regarding cessation this admission.  Patient reported 
he would quit as of this admission, but declined any 
assistance. 

#BPH
-continued tamsulosin

#Restless Leg Syndrome
-continued ropinrole

Transitional Issues
- Discharged home with PCP and hematology ___ on new 
anticoagulation 
- Consider referral for age appropriate cancer screening
- Would consider ongoing tobacco cessation suppport

> 30 minutes spent on discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. rOPINIRole 0.25 mg PO TID 
2. Tamsulosin 0.4 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID Duration: 13 Doses 
RX *apixaban [Eliquis] 5 mg 2 tablet(s) by mouth twice a day 
Disp #*28 Tablet Refills:*0 
2.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*3 
3.  rOPINIRole 0.25 mg PO TID  
4.  Tamsulosin 0.4 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Acute pulmonary embolism 
# Acute R popliteal vein thrombosis 
# Acute R posterior tibial vein thrombosis
# Pleuritic chest pain 
# Tobacco Abuse
# BPH
# Restless Leg Syndrome
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for a blood clot in your lungs.  
 
What was done for me while I was in the hospital?  
- We started you on a blood thinner medication to protect you 
from any further clotting.  

What should I do when I leave the hospital?  
- Continue taking your medications as prescribed and keep all of 
your appointments
- We recommend that you not get a tattoo while you are on 
anticoagulation
- You are at risk for recurrent blood clots, even while 
anticoagulated with the blood thinning medication. Take care 
while on upcoming flights to remain mobile and consider wearing 
compression stockings. If symptoms of shortness of breath, chest 
pain, or leg swelling develop you should talk to your doctor.
 
Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___